US04826854
Reaction of ethyl 5,6,7,8,9,10-hexahydro-4-chlorocycloocta[b]pyridine-3-carboxylate with phenylhydrazine according to the procedure analogous to that described in example 1 yields 2,3,6,7,8,9,10,11-octahydro-2-phenylcylcoocta[b]pyrazolo[3,4-d]pyridin-3(5H)-one, m.p. 310°-312°.

reactant | ethyl 5,6,7,8,9,10-hexahydro-4-chlorocycloocta[b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CCCCCC2 | C14H18ClNO2
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | 2,3,6,7,8,9,10,11-octahydro-2-phenylcylcoocta[b]pyrazolo[3,4-d]pyridin-3(5H)-one | C1(=CC=CC=C1)N1N=C2C3=C(NC=C2C1=O)CCCCCC3 | C18H19N3O
